US07138425B2
a) N-(2-Hydroxy-6-methylphenyl)-2-fluoro-5-nitrobenzamide
Prepared by the method of Example 15a), from 2-amino-3-methylphenol (283 mg, 2.3 mmol) and 2-fluoro-5-nitrobenzoyl chloride (468 mg, 2.3 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-amino-3-methylphenol | 2.3 mmol, 283 mg | NC1=C(C=CC=C1C)O | C7H9NO
reactant | 2-fluoro-5-nitrobenzoyl chloride | 2.3 mmol, 468 mg | FC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3ClFNO3
product | N-(2-Hydroxy-6-methylphenyl)-2-fluoro-5-nitrobenzamide | OC1=C(C(=CC=C1)C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C14H11FN2O4
